US07208494B2
a) (4R,9aR)-7-Chloro-6-methoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
This compound was prepared in analogy to example 5, intermediate from (4R,9aR)-6-methoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester and N-chlorosuccinimide.

reactant | (4R,9aR)-6-methoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)OC | C17H25N3O3
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | (4R,9aR)-7-Chloro-6-methoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)OC)Cl | C17H24ClN3O3
